US07262192B2
Dimethyl 4-nitro-1-(2-propoxyethyl)-1H-pyrazole-3,5-dicarboxylate
Diisopropyl azodicarboxylate (14.2 mL, 70 mmol) was added to an ice-cooled solution of 4-nitro-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester (EP 1241170, prep 10) (15 g, 60 mmol), 2-propoxyethanol (8.2 mL, 70 mmol) and triphenylphosphine (18.9 g, 70 mmol) in tetrahydrofuran (150 mL), and the reaction stirred at 0° C. for 2.5 hours, then allowed to stir at room temperature for a further 18 hours. The reaction was concentrated in vacuo and the residue purified by column chromatography on silica gel using ethyl acetate:pentane as eluant, and then re-columned using dichloromethane as eluant to afford the title compound as a solid, 14 g.

reactant | Diisopropyl azodicarboxylate | 70 mmol, 14.2 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 4-nitro-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester | 60 mmol, 15 g | COC(=O)C1=NNC(=C1[N+](=O)[O-])C(=O)OC | C7H7N3O6
reactant | 2-propoxyethanol | 70 mmol, 8.2 mL | C(CC)OCCO | C5H12O2
reactant | triphenylphosphine | 70 mmol, 18.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | Dimethyl 4-nitro-1-(2-propoxyethyl)-1H-pyrazole-3,5-dicarboxylate | [N+](=O)([O-])C=1C(=NN(C1C(=O)OC)CCOCCC)C(=O)OC | C12H17N3O7
